US07282583B2
Step 3: Production of Methyl 2-bromo-5-(2-hydroxyethyl)pyridine-3-carboxylate
Into a 1L three-neck round-bottom flask with a stirrer bar, nitrogen inlet and condenser were added 20 g (78.974 mmol) of methyl-4-(2-acetyloxyethyl)-2-cyano-5-methoxypenta-2,4-dienoate, which was dissolved in 55 ml acetic acid and heated to 35° C. The solution was slowly treated over a period of ½ h with 85.21 g (237 mmol) HBr/HOAc at 35-40° C. with occasional cooling. After the addition was completed the solvents were evaporated at 40° C. and 30 mm Hg and the residue was charged while stirring with a mixture of 60 ml water and 15 ml methanol. The reaction mixture was treated with 3.3 g charcoal and heated for ½ h at 40° C. The charcoal was filtered off and the methanol was distilled off under reduced pressure. The reaction mixture was evaporated and the residue was chromatographed at 100 g silica gel using a solvent mixture of Heptane:Ethyl acetate (2:1 v/v).

reactant | methyl-4-(2-acetyloxyethyl)-2-cyano-5-methoxypenta-2,4-dienoate | 78.974 mmol, 20 g | COC(C(=CC(=COC)CCOC(C)=O)C#N)=O | C12H15NO5
reactant | HBr HOAc | 237 mmol, 85.21 g | Br.CC(=O)O
solvent | acetic acid | 55 ml | C(C)(=O)O | C2H4O2
product | Methyl 2-bromo-5-(2-hydroxyethyl)pyridine-3-carboxylate | BrC1=NC=C(C=C1C(=O)OC)CCO | C9H10BrNO3
